US05935973
A solution of 4-toluenesulphonyl chloride (3.15 g) in dry pyridine (15 ml) was added to a solution of (S)-8-chloro-1,4-benzodioxan-2-ylmethanol (3.32 g; prepared in a similar manner to that described above) in dry pyridine (40 ml) and the mixture stirred at ambient temperature for 18 hours, then poured onto ice and dilute hydrochloric acid added to give pH4. The mixture was extracted with dichloromethane (2×200 ml) and the combined extracts washed with brine and dried over magnesium sulphate. The solvent was evaporated to give (R)-8-chloro-1,4-benzodioxan-2-ylmethyl 4-toluenesulphonate (5.21 g) as a pale yellow solid.

reactant | 4-toluenesulphonyl chloride | 3.15 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (S)-8-chloro-1,4-benzodioxan-2-ylmethanol | ClC1=CC=CC2=C1O[C@H](CO2)CO | C9H9ClO3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | (R)-8-chloro-1,4-benzodioxan-2-ylmethyl 4-toluenesulphonate | 5.21 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=CC=C2)Cl)C | C16H15ClO5S
